US05990310
2,4,6-Tris-[4-aminoanilino]-1,3,5-triazine
In one 100 milliliter, four-neck, round-bottom flask equipped with a thermo-couple, a condenser, a mechanical stirrer, and a nitrogen sweep were placed 3.34 grams (0.005 mole) of 2,4,6-tris-[4-(phenylazo)phenylamino]-1,3,5-triazine, 50 grams of isobutanol, 1.66 grams (0.033 mole) of hydrazine hydrate and 0.15 gram of 5 percent palladium on carbon (approximately 60 percent wet). Over a period of two hours, the mixture was heated to 70° C., and held an additional ten hours at 70° C. The reduction was followed by high performance liquid chromatography by observing the disappearance of the starting tris-azo compound and the conversion of the intermediate di- and mono-azo compounds to the tris-amino compound and the formation of the by-product aniline. The title compound was isolated by filtration at 60° C. The filter cake was washed with 10 milliliters of isobutanol, dried to a constant weight to give 100 percent yield (2 grams) of 2,4,6-tris-[4-aminoanilino]-1,3,5-triazine. The melt point was 297°-299° C. The infrared spectrum was consistent with the structure. Relative area HPLC analysis showed it to be 97.8 percent pure. The filtrate was distilled to recover 1.1 grams of aniline, 78.6 percent of theory.

reactant | 2,4,6-tris-[4-(phenylazo)phenylamino]-1,3,5-triazine | 0.005 mole, 3.34 grams | C1(=CC=CC=C1)N=NC1=CC=C(C=C1)NC1=NC(=NC(=N1)NC1=CC=C(C=C1)N=NC1=CC=CC=C1)NC1=CC=C(C=C1)N=NC1=CC=CC=C1 | C39H30N12
reactant | hydrazine hydrate | 0.033 mole, 1.66 grams | O.NN
reactant | aniline | NC1=CC=CC=C1 | C6H7N
catalyst | palladium on carbon | 0.15 gram | [Pd] | Pd
solvent | isobutanol | 50 grams | C(C(C)C)O | C4H10O
product | 2,4,6-Tris-[4-aminoanilino]-1,3,5-triazine | NC1=CC=C(NC2=NC(=NC(=N2)NC2=CC=C(C=C2)N)NC2=CC=C(C=C2)N)C=C1 | C21H21N9
